US04960778
STAGE B: 3-Methyl-6-(3-bromo-2-methylpropyl)benzoxazolinone
0.03 mole of 3-methyl-6-(3-bromo-2-methylpropionyl)benzoxazolinone is dissolved in 0.3 mole of trifluoroacetic acid in a 150-cm3 flask. 0.066 mole of triethylsilane is added dropwise and with cooling. Stirring is continued for 24 hours at room temperature. The reaction mixture is poured into 5 volumes of ice-cold water. The precipitate obtained is drained, washed with water until the washing liquors are neutral, dried and recrystallized in cyclohexane.

reactant | 3-methyl-6-(3-bromo-2-methylpropionyl)benzoxazolinone | 0.03 mole | CN1C(OC2=C1C=CC(=C2)C(C(CBr)C)=O)=O | C12H12BrNO3
reactant | trifluoroacetic acid | 0.3 mole | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.066 mole | C(C)[SiH](CC)CC | C6H16Si
product | 3-Methyl-6-(3-bromo-2-methylpropyl)benzoxazolinone | CN1C(OC2=C1C=CC(=C2)CC(CBr)C)=O | C12H14BrNO2
